US07884114B2
6-Bromo-8-fluoroquinoline
A solution of concentrated sulphuric acid (63 ml, 820 mmol) in water (49.4 ml) was treated with sodium 3-nitro-benzenesulfonate (commercially available, for example, from Aldrich) (47.9 g, 213 mmol) and glycerol (commercially available, for example, from Fluka and/or Aldrich) (52 ml, 720 mmol) to give a thick grey suspension. This was heated to 110° C. (internal temperature was 85° C.). 4-Bromo-2-fluoroaniline (commercially available, for example, from Fluorochem and/or Aldrich) (38 g, 200 mmol) was added over 10 min in portions, during which the internal temperature rose to 95° C. The reaction was heated to 140° C. (internal temperature was 133° C.) and stirred overnight. The reaction mixture was cooled and then poured into water (1000 ml) and basified to pH 7 with aqueous ammonia (0.88 s.g, approximately 190 ml). The brown precipitate that formed was collected by filtration and partially dried. This solid (63 g) was loaded onto a column of silica (1500 ml) and eluted with EtOAc to give the title compound as a light brown solid (43.8 g, 97%). LCMS RT=2.87 min, ES+ve m/z 226/228 [M+H]+.

reactant | sulphuric acid | 820 mmol, 63 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium 3-nitro-benzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | 4-Bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | ammonia | approximately 190 ml | N | H3N
solvent | water | 49.4 ml | O | H2O
solvent | water | 1000 ml | O | H2O
solvent | glycerol | OCC(O)CO | C3H8O3
product | 6-Bromo-8-fluoroquinoline | 43.8 g, 97% | BrC=1C=C2C=CC=NC2=C(C1)F | C9H5BrFN
